US04112112
A mixture of 9-nitro-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine (2.0 g.), 0.2 g. of 10% Pd/C and 350 ml. of methanol is hydrogenated until the theoretical amount of hydrogen is absorbed. The mixture is filtered and the filtrate is evaporated to dryness to yield 9-amino-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine.

reactant | 9-nitro-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine | 2.0 g | [N+](=O)([O-])C1=CC2=C(CCN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C18H21N3O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 9-amino-11-(3-dimethylaminopropylidene)-6,11-dihydro-5H-pyrrolo[2,1-b][3]benzazepine | NC1=CC2=C(CCN3C(C2=CCCN(C)C)=CC=C3)C=C1 | C18H23N3
